US04616014
A solution of ethyl chloroformate (3.689 g) in methylene chloride (10 ml) was added dropwise to a stirred solution of N-ethoxycarbonylglycine (4.998 g) and triethylamine (3.434 g) in methylene chloride (60 ml) under cooling in 5 minutes, and the stirring was continued for 5 minutes under cooling. To the solution of the mixed anhydride was added a solution of 3-hydrazino-5-methyl-6-phenyl-1,2,4-triazine (3.417 g) in chloroform (40 ml) and reacted in a similar manner to that of Example 17-(1). The reaction mixture was washed with water, dried over magnesium sulfate, and evaporated under reduced pressure. The residue was dissolved in ethanol (50 ml) and a solution of sodium hydroxide (1.6 g) in water (10 ml) was added dropwise to the solution with stirring under ice cooling in 5 minutes. After stirring for 30 minutes at room temperature, the solution was evaporated, and the residue was dissolved in a small amount of water. The solution was salted out and extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate, and evaporated. The residue was dissolved in chloroform containing a small amount of ethanol and the solution was chromatographed on silica gel (50 g). The eluent with a mixture of chloroform and ethanol (30:1) gave a colorless solid of 3-[2-(N-ethoxycarbonylglycyl)hydrazino]-5-methyl-6-phenyl-1,2,4-triazine (1.872 g).

reactant | ethyl chloroformate | 3.689 g | ClC(=O)OCC | C3H5ClO2
reactant | N-ethoxycarbonylglycine | 4.998 g | C(C)OC(=O)NCC(=O)O | C5H9NO4
reactant | triethylamine | 3.434 g | C(C)N(CC)CC | C6H15N
reactant | 3-hydrazino-5-methyl-6-phenyl-1,2,4-triazine | 3.417 g | N(N)C=1N=NC(=C(N1)C)C1=CC=CC=C1 | C10H11N5
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-[2-(N-ethoxycarbonylglycyl)hydrazino]-5-methyl-6-phenyl-1,2,4-triazine | 1.872 g | C(C)OC(=O)NCC(=O)NNC=1N=NC(=C(N1)C)C1=CC=CC=C1 | C15H18N6O3
